US07560558B2
4-(Imidazol-1-yl)phenol (500 mg) was dissolved in water (6 ml), methanol (18 ml), and dichloromethane (6 ml) to prepare a solution. Iodine (1.58 g) was added to the solution, and the mixture was stirred at room temperature for 8 days. An aqueous sodium thiosulfate solution and methanol were added to the reaction solution, and the mixture was stirred and was then concentrated. The concentrate was extracted with chloroform, and the chloroform layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give 4-(imidazol-1-yl)-2-iodophenol (123 mg, yield 14%).

reactant | 4-(Imidazol-1-yl)phenol | 500 mg | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | Iodine | 1.58 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 6 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | methanol | 18 ml | CO | CH4O
product | 4-(imidazol-1-yl)-2-iodophenol | 123 mg, yield 14% | N1(C=NC=C1)C1=CC(=C(C=C1)O)I | C9H7IN2O
